US08314126B2
4-[3-FLUORO-2-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE
To a solution of 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propyl-1,2,3,6-tetrahydro pyridine (1.73 g, 6.0 mmol) in ethanol (30 ml) was added Raney nickel (slurry in water, 10 ml) and the reaction mixture was hydrogenated under hydrogen (50 psi) for 2 days. Filtration through a pad of celite and evaporation of the filtrate gave 1.35 g of crude product. MS m/z (relative intensity, 70 eV) 289 (M+, 4), 261 (16), 260 (bp), 176 (6) 70 (20).

reactant | 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propyl-1,2,3,6-tetrahydro pyridine | 6.0 mmol, 1.73 g | FC=1C(=C(C=CC1)C=1CCN(CC1)CCC)C(F)(F)F | C15H17F4N
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Raney nickel | 10 ml | [Ni] | Ni
product | 4-[3-FLUORO-2-(TRIFLUOROMETHYL)PHENYL]-1-PROPYLPIPERIDINE | 1.35 g | FC=1C(=C(C=CC1)C1CCN(CC1)CCC)C(F)(F)F | C15H19F4N
